US06943169B2
4-[3-(2-Oxo-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 0.5 g (1.51 mmole) 1-(3-bromo-benzyl)-1,3,4,5-tetrahydro-benzo[b]azepin-2-one, 0.203 g sodium tert-butoxide, 0.04 g (0.16 mmole) tri-tert-butyl phosphine, 0.04 g (0.16 mmole) palladium(II)acetate, and 0.3 g piperazin-1-yl carboxylic acid tert-butyl ester in 5 mL xylene was heated at 105° under N2 for 1.5 hrs. The mixture was diluted with 5 mL ethyl ether and then filtered through a pad of 10 g silica gel 230-400 mesh. 4-[3-(2-Oxo-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester was eluted with 20% ethyl acetate/hexane to yield 0.64 g of a heavy syrup. M+H=436.

reactant | 1-(3-bromo-benzyl)-1,3,4,5-tetrahydro-benzo[b]azepin-2-one | 1.51 mmole, 0.5 g | BrC=1C=C(CN2C3=C(CCCC2=O)C=CC=C3)C=CC1 | C17H16BrNO
reactant | sodium tert-butoxide | 0.203 g | CC(C)([O-])C.[Na+]
reactant | tri-tert-butyl phosphine | 0.16 mmole, 0.04 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | piperazin-1-yl carboxylic acid tert-butyl ester | 0.3 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl ether | 5 mL | C(C)OCC | C4H10O
catalyst | palladium(II)acetate | 0.16 mmole, 0.04 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[3-(2-Oxo-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.64 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)CN1C2=C(CCCC1=O)C=CC=C2 | C26H33N3O3
